US04459414
Tetrakis-(phenylthio)-phthalic anhydride
30.88 g (108 millimols) of tetrachlorophthalic anhydride, 48.79 g (443 millimols) of thiophenol, 91.06 g (659 millimols) of potassium carbonate and 300 ml of tetrahydrofuran are stirred under reflux for 3 hours. The mixture is evaporated and the residue is taken up in methylene chloride/2N HCl solution. The organic phase is separated off, dried over sodium sulfate and evaporated. After recrystallisation from toluene/cyclohexane, 44.71 g (71% of theory) of tetrakis-(phenylthio)-phthalic anhydride are obtained; melting point 141°-2° C.

reactant | tetrachlorophthalic anhydride | 108 millimols, 30.88 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | thiophenol | 443 millimols, 48.79 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 659 millimols, 91.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | Tetrakis-(phenylthio)-phthalic anhydride | C1(=CC=CC=C1)SC=1C(=C(C(=C2C1C(=O)OC2=O)SC2=CC=CC=C2)SC2=CC=CC=C2)SC2=CC=CC=C2 | C32H20O3S4
